US08076329B2
Following the procedure described in example 1§E, but starting from 4-hydroxy-4′-methylbiphenyl (194 mg), potassium carbonate (720 mg) and 1-bromo-3-chloropropane (517 μL) in N,N-dimethylformamide (1.5 mL) affords 274 g of 4-(3-chloropropoxy)-4′-methylbiphenyl.

reactant | 4-hydroxy-4′-methylbiphenyl | 194 mg | OC1=CC=C(C=C1)C1=CC=C(C=C1)C | C13H12O
reactant | potassium carbonate | 720 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 517 μL | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloropropoxy)-4′-methylbiphenyl | 274 g | ClCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C | C16H17ClO
